.lib ptm10

.subckt nfet d g s x l=lg nfin=1
.include '10nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin 
.ends nfet

.subckt pfet d g s x l=lg nfin=1
.include '10pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin 
.ends pfet


.endl ptm10
~
~

