.lib ptm16

.subckt nfet d g s x l=lg nfin=1
.include '16nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet d g s x l=lg nfin=1
.include '16pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet


.endl ptm16
